US09056874B2
2-((3-Chloro-5,7-dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized by a chlorination of 2-((5,7-dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile using NCS analogously to the preparation of Example 85. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.38 (s, 1H) 11.29 (br. s., 1H) 7.98 (d, J=0.76 Hz, 1H) 7.75-7.87 (m, 1H) 7.61 (d, J=8.34 Hz, 1H) 7.44-7.55 (m) 7.39-7.44 (m) 6.86 (s, 1H) 4.75 (d, J=4.55 Hz, 2H) 2.42 (s, 3H) 2.24 (s, 3H). HRMS calcd. for C13H16ClN4 (M+H)+ 335.1058. found 335.1062.

reactant | 2-((5,7-dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C19H16N4
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | 2-((3-Chloro-5,7-dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | ClC1=CNC2=C(C=C(C(=C12)CC1=NC2=C(N1)C=CC(=C2)C#N)C)C | C19H15ClN4
